US08895761B2
A solution of 2-methyl-3-butyne-2-ol (25 g, 0.297 mol) in tetrahydrofuran (250 ml) is cooled to −78° C. under a nitrogen atmosphere and n-butyl lithium (1.6 molar solution in hexanes, 410 ml, 0.65 mol) is added slowly over 1.5-2.0 hours. The reaction mixture is stirred for 1 hour at −78° C. and a solution of cyclopentanone (39 ml, 0.44 mol) in tetrahydrofuran (39 ml) is added. The reaction mixture is stirred at −78° C. for one hour and allowed to come to ambient temperature and stirred for 2-3 hours. The reaction mixture is cooled to 10° C. and quenched with ice cold water. The mixture is extracted with dichloromethane (3×250 ml), and the organic phases are combined, washed with water, and dried over anhydrous sodium sulfate. The mixture is filtered, and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give 1-(3-hydroxy-3-methylbut-1-ynyl)-cyclopentanol (17 g) as colourless oil.

reactant | 2-methyl-3-butyne-2-ol | 0.297 mol, 25 g | CC(C)(C#C)O | C5H8O
reactant | n-butyl lithium | 0.65 mol, 1.6 molar, 410 ml | C(CCC)[Li]
reactant | cyclopentanone | 0.44 mol, 39 ml | C1(CCCC1)=O | C5H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 39 ml | O1CCCC1 | C4H8O
product | 1-(3-hydroxy-3-methylbut-1-ynyl)-cyclopentanol | 17 g | OC(C#CC1(CCCC1)O)(C)C | C10H16O2
